US04226614
17.2 g (0.05 mole) of 4-(4'-trifluoromethylphenoxy)-α-phenoxypropionyl chloride are added dropwise at 10° C. to a mixture of 3.13 g (0.055 mole) of 100% hydroxyacetonitrile (cyanomethanol) and 5.5 g (0.54 mole) of triethylamine in 50 ml of methylene chloride. The reaction mixture is then stirred for 1 hour at room temperature. Then 100 ml of water are added and the organic phase is separated, filtered over a small column of silica gel and concentrated. The residual solid is triturated with petroleum ether, collected by filtration and dried, affording 13.2 g (72.5% of theory) of 4-(4'-trifluoromethylphenoxy)-α-phenoxy-propionic acid cyanomethyl ester with a melting point of 53°-56° C.

reactant | 4-(4'-trifluoromethylphenoxy)-α-phenoxypropionyl chloride | 0.05 mole, 17.2 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O3
reactant | hydroxyacetonitrile | 0.055 mole, 3.13 g | OCC#N | C2H3NO
reactant | triethylamine | 0.54 mole, 5.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(4'-trifluoromethylphenoxy)-α-phenoxy-propionic acid cyanomethyl ester | 13.2 g, 72.5% | C(#N)COC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C18H14F3NO4
